US04548818
(a) Preparation of 6-amino-1-cyclopentyl-2,4-(1H,3H)-pyrimidinedione XIV
To a solution of 136 g (1.6 mol) cyanoacetic acid and 400 ml of acetic anhydride was added 192 g (1.5 mol) of cyclopentylurea. The solution was stirred at 60°-70° C. for 2 hours. After cooling white crystals were filtered off and washed with ethanol. Yield 192 g (66%) (XIII). This was stirred in 500 ml of hot water and 195 ml of 5N NaOH was added in portions so the solution the whole time was basic. The reaction mixture was refluxed for 20 minutes and then neutralized with 5N HCl. After cooling, white crystals of cyclopentylurea were filtered off (159 g). The filtrate was evaporated and the residue was refluxed with 200 ml of 1N NaOH. After cooling the cyclopentylurea was filtered off and the filtrate was neutralized with 5N HCl. The crystals were filtered off. Yield 3.8 g (2%) (XIV) NMR.

reactant | cyanoacetic acid | 1.6 mol, 136 g | C(#N)CC(=O)O | C3H3NO2
reactant | cyclopentylurea | 1.5 mol, 192 g | C1(CCCC1)NC(=O)N | C6H12N2O
solvent | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-amino-1-cyclopentyl-2,4-(1H,3H)-pyrimidinedione | NC1=CC(NC(N1C1CCCC1)=O)=O | C9H13N3O2
